Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Febrile Neutropenia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a  pleasant, well-appearing ___ year-old woman who
since ___ has had a history of lymphocytosis & low neutrophil
counts in the setting of a normal white blood cell counts,
presenting with fever in the setting CMML. 

Today patient p/w fever earlier this morning to 101 at home.
Started ciprofloxacin 500mg PO first dose last night. She 
reports
feeling occasional aching in BLE's, otherwise feeling well. She
was baking earlier today and felt more achy, decided to check
temp and it was 101. She decided to rest for few hours, did not
take Tylenol and temp was 100.6.  She was seen in clinic
yesterday and started on cipro 500mg PO every 12 hours and
acyclovir 400mg PO TID d/t mouth sore noted on left lower outer
lip. 

On arrival to the floor, patient is in no acute distress and 
does
not report any fever or chills. Denies any
additional symptoms including chills, nausea, vomiting, 
diarrhea,
abdominal pain.

ROS: Negative, except per HPI 
 
Past Medical History:
PAST ONC HISTORY: (Per OMR) 
- As documented by hematology, the patients monocytes have
continued to increase from ___ to 24% as of ___. On
___ the patients monocytes decreased slightly to 21%, ANC
also noted to decrease to 1780.  Her anemia has also worsened
slightly with a decline in hematocrit from 38.4 to 34.3 from
___ to ___. Despite these clinical findings,
the patient has felt relatively well with only some occasional
fatigue. Due to these findings, a bone marrow biopsy was done on
___ by Dr. ___. 
- CUrrently on cycle 1, day 25 of Dacogen therapy 

PMH: 
Beta Thalassemia Minor
Osteoporosis
Paroxysmal Afib
Nasal Polyps- Right Nare only
Lymphocytosis
Monocytosis

Surgical HX:
Right breast lumpectomy ___- benign cyst removed, pathology
negative per pt. report
Total Hysterectomy- approximately ___ yrs ago
Cataract Surgery- Right eye only, date unknown.
 
Social History:
___
Family History:
Mother- passed away at age ___. Lung disease, otherwise healthy.
Father- heart attack age ___
Brother- thalassemia, DM, HTN
 
Physical Exam:
ADMISSION EXAM: 
Vital Signs sheet entries for ___: 
BP: 98.8 124/60 68 18 96RA
GEN: pleasant, well-appearing female in NAD, sitting in chair in
exam room, accompanied by daughter and son. A/O x 3. 
HEENT: Head: atraumatic, normocepahlic. No alopecia. Eyes: 
PERRL,
Anicteric sclerae. Mouth: Oropharynx clear without
erythema, oral ulcerative lesions, or thrush. 
NECK: Supple without thyromegaly or adenopathy. 
LYMPH: No cervical, supraclavicular, infraclavicular, or
axillary adenopathy noted. 
CV:  irregularly irregular HR. Normal S1, S2. No S3 or S4. No
murmurs, rubs, or gallops. 
RESP:  Clear to auscultation bilaterally without rhonchi, rales,
or wheezes.  Normal respiratory effort. 
ABDOMEN: Soft, nontender, nondistended, normoactive bowel sounds
throughout.  No hepatosplenomegaly.  
EXTREMITIES: Full strength and ROM in both upper and lower
extremities. No extremity edema. 
MS: No pain on palpation to spine or parasacral region. 
NEURO: appropriate affect, engaging in exam, answering questions
without difficulty. no obvious neuro-muscular deficits. 
SKIN: No lesions or skin irritation. No dry skin. No visible 
skin
rashes. 1 small ulcer on left, outter lower lip that appeared
about 4 days ago. no drainage. 

DISCHARGE EXAM: 
Vitals: Tm: 98.9 ___ 128/68 18 98%RA
GEN: pleasant, well-appearing female in NAD, laying in bed
HEENT: Head: atraumatic, normocepahlic. No alopecia. Eyes:
Anicteric sclerae. Mouth: Oropharynx clear without
erythema, oral ulcerative lesions, or thrush. 
NECK: Supple
CV:  irregularly irregular HR. Normal S1, S2. No S3 or S4. No
murmurs, rubs, or gallops. 
RESP:  Clear to auscultation bilaterally without rhonchi, rales,
or wheezes.  Normal respiratory effort. 
ABDOMEN: Soft, nontender, nondistended, normoactive bowel sounds
throughout.  No hepatosplenomegaly.  
EXTREMITIES: Full strength and ROM in both upper and lower
extremities. No extremity edema. 
MS: No pain on palpation to spine or parasacral region. 
NEURO: appropriate affect, engaging in exam, answering questions
without difficulty. no obvious neuro-muscular deficits. 
SKIN: No lesions or skin irritation. No dry skin. No visible 
skin
rashes. 1 small ulcer on left, outter lower lip that appeared
about 4 days ago. no drainage. 

 
Pertinent Results:
ADMISSION LABS:
___ 10:00AM BLOOD WBC-2.1* RBC-4.67 Hgb-10.3* Hct-32.6* 
MCV-70* MCH-22.1* MCHC-31.6* RDW-18.3* RDWSD-39.8 Plt ___
___ 10:00AM BLOOD Neuts-21.1* Lymphs-71.6* Monos-3.4* 
Eos-1.0 Baso-1.9* Im ___ AbsNeut-0.44* AbsLymp-1.49 
AbsMono-0.07* AbsEos-0.02* AbsBaso-0.04
___ 10:00AM BLOOD UreaN-16 Creat-0.7 Na-141 K-4.7 Cl-104 
HCO3-28 AnGap-14
___ 10:00AM BLOOD ALT-25 AST-23 AlkPhos-43 TotBili-0.6
___ 10:00AM BLOOD TotProt-7.7 Albumin-4.7 Globuln-3.0 
Calcium-9.9 Phos-3.4 Mg-2.0

DISCHARGE LABS: 
___ 05:20AM BLOOD WBC-2.6* RBC-4.40 Hgb-9.6* Hct-31.0* 
MCV-71* MCH-21.8* MCHC-31.0* RDW-18.2* RDWSD-41.1 Plt ___
___ 05:20AM BLOOD Neuts-24.6* Lymphs-66.5* Monos-5.8 
Eos-0.8* Baso-1.5* Im ___ AbsNeut-0.64* AbsLymp-1.73 
AbsMono-0.15* AbsEos-0.02* AbsBaso-0.04
___ 06:33AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-2+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ellipto-2+
___ 05:20AM BLOOD ___ PTT-33.0 ___
___ 05:20AM BLOOD Glucose-116* UreaN-15 Creat-0.7 Na-138 
K-4.5 Cl-104 HCO3-24 AnGap-15
___ 05:20AM BLOOD ALT-20 AST-18 LD(LDH)-154 AlkPhos-40 
TotBili-0.7
___ 05:20AM BLOOD TotProt-6.7 Albumin-4.1 Globuln-2.6 
Calcium-9.3 Phos-3.5 Mg-2.1

MICRO:
___ urine cx-neg
___ blood cx x 2: NGTD

IMAGING:
___ CXR PA+LAT
In comparison with the study of ___, there is little 
change in the
hyperexpansion of the lungs consistent with chronic pulmonary 
disease and the
scarring in the region of the lingula.  No convincing evidence 
of acute focal
pneumonia.
 
 
Brief Hospital Course:
___ year-old woman of w/ newly diagnosed CMML diagnosed ___, 
beta thal minor, afib on C1D25 of Dacogen who presented with 
neutropenic fever.

#Febrile Neutropenia:  ___ 441 on presentation. Urine culture 
from the day prior to presentation had no growth. CXR showed no 
acute process. Blood cultures were sent. Abd exam was benign, 
and she had no skin lesions. Started on cefepime and remained 
afebrile. Transitioned to levaquin and was discharged with close 
follow-up with Dr. ___. 

#CMML: patient has newly diagnosed MDS: CMML-2. Currently 
finishing cycle 1 dacogen therapy. Discharged with plan to start 
second cycle of dacogen in the outpatient setting. 

#Paroxysmal Atrial Fibrillation: HR remained in normal range 
without rate control agent. Continued on home Apixaban.

TRANSITIONAL ISSUES: 
-Discharged on levaquin to be continued at the discretion of 
outpatient providers. Monitor QTc, particularly if starting any 
additional QT prolonging medications. QTc this admission 400.
- F/u with Dr. ___ for ___ to continue 
decitabine. 
-Blood cultures pending on discharge 

- CODE: Full
- CONTACT: ___, sister ___ / ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clorazepate Dipotassium 7.5 mg PO HS:PRN sleep 
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
3. Apixaban 5 mg PO BID 
4. Multivitamins 1 TAB PO DAILY 
5. Acyclovir 400 mg PO Q12H 
6. Calcium Carbonate 500 mg PO DAILY 
7. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1. Apixaban 5 mg PO BID 
2. Calcium Carbonate 500 mg PO DAILY 
3. Clorazepate Dipotassium 7.5 mg PO HS:PRN sleep 
4. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Sertraline 50 mg PO DAILY 
7. Levofloxacin 500 mg PO DAILY 
RX *levofloxacin 500 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0
8. Acyclovir 400 mg PO Q12H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Febrile neutropenia

SECONDARY DIAGNOSIS: Chronic Myelomonocytic Leukemia, Paroxysmal 
Atrial Fibrillation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, 

You came into the hospital because you were having a fever and 
your cell counts were low. You were given a strong antibiotic 
through an IV and you had no more fevers. You were monitored in 
the hospital and did well. You were switched to an oral 
antibiotics called levaquin which you should continue taking 
until Dr. ___ you to stop it. 

It was a pleasure being involved in your care, 
Your ___ Care Team
 
Followup Instructions:
___